US09254251B2
Preparation of 5-adamantan-1-yl-N-(2,4-dihydroxybenzyl)-2,4-dimethoxybenzamide
0.03 g of the target compound is obtained as white solid in substantially the same manner as in (2) of Example 1, except for using 5-adamantan-1-yl-2,4-dimethoxybenzoic acid instead of 5-adamantan-1-yl-2,4-dihydroxybenzoic acid and using 2,4-dihydroxybenzylamine instead of dopamine.

reactant | 5-adamantan-1-yl-2,4-dimethoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)O)C2)OC)OC | C19H24O4
reactant | 2,4-dihydroxybenzylamine | OC1=C(CN)C=CC(=C1)O | C7H9NO2
product | 5-adamantan-1-yl-N-(2,4-dihydroxybenzyl)-2,4-dimethoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCC3=C(C=C(C=C3)O)O)C2)OC)OC | C26H31NO5
